US08193199B2
A mixture of 6-bromopurine (0.1418 g, 0.7125 mmol), (2-(3-fluorophenyl)-8-methoxyquinolin-3-yl)methanamine (0.2213 g, 0.7838 mmol), and N,N-diisopropylethylamine (0.2482 mL, 1.425 mmol) in 1-butanol (7.125 mL, 0.7125 mmol) was stirred at 100° C. After 24 h, the mixture was removed from the heat and concentrated under reduced pressure. The residue was purified by flash column chromatography on a silica gel column using 50% of CH2Cl2:MeOH:NH4OH (89:9:1) in CH2Cl2 as eluent to give an off-white solid. The off-white solid was suspended in EtOAc and filtered to give N-((2-(3-fluoro-phenyl)-8-methoxyquinolin-3-yl)methyl)-9H-purin-6-amine as a white solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 12.95 (1H, s), 8.18-8.30 (2H, m), 8.11 (2H, s), 7.42-7.61 (5H, m), 7.28-7.36 (1H, m), 7.16 (1H, dd, J=7.1, 1.7 Hz), 4.71-4.95 (2H, m), 3.95 (3H, s); LC-MS (ESI) m/z 401.2 [M+H]+.

reactant | 6-bromopurine | 0.7125 mmol, 0.1418 g | BrC1=C2NC=NC2=NC=N1 | C5H3BrN4
reactant | (2-(3-fluorophenyl)-8-methoxyquinolin-3-yl)methanamine | 0.7838 mmol, 0.2213 g | FC=1C=C(C=CC1)C1=NC2=C(C=CC=C2C=C1CN)OC | C17H15FN2O
reactant | N,N-diisopropylethylamine | 1.425 mmol, 0.2482 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-butanol | 0.7125 mmol, 7.125 mL | C(CCC)O | C4H10O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-((2-(3-fluoro-phenyl)-8-methoxyquinolin-3-yl)methyl)-9H-purin-6-amine | FC=1C=C(C=CC1)C1=NC2=C(C=CC=C2C=C1CNC1=C2N=CNC2=NC=N1)OC | C22H17FN6O
